*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HQ-3N0
* Inductance = 3nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-14.1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HQ-3N0_freq port1 port2 PARAMS: Cpar=0.052pF Ind=3nH
X1 port1 port2 Model2A PARAMS:
+ R1=7
+ R2=0.04
+ C= {Cpar}
+ K1=0.0000076
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7345.14307
.ends 1008HQ-3N0_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HQ-3N0
* Inductance = 3nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-14.1GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008HQ-3N0_imp port1 port2 PARAMS: Cpar=0.052pF Ind=3nH
X1 port1 port2 Model1D PARAMS:
+ R1=7
+ R2=0.04
+ C= {Cpar}
+ K1=0.0000076
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7345.14307
.ends 1008HQ-3N0_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HQ-4N1
* Inductance = 4.1nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-11.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HQ-4N1_freq port1 port2 PARAMS: Cpar=0.057pF Ind=4.1nH
X1 port1 port2 Model2A PARAMS:
+ R1=8
+ R2=0.05
+ C= {Cpar}
+ K1=0.00001
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7977.83449
.ends 1008HQ-4N1_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HQ-4N1
* Inductance = 4.1nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-11.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008HQ-4N1_imp port1 port2 PARAMS: Cpar=0.057pF Ind=4.1nH
X1 port1 port2 Model1D PARAMS:
+ R1=8
+ R2=0.05
+ C= {Cpar}
+ K1=0.00001
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7977.83449
.ends 1008HQ-4N1_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HQ-7N8
* Inductance = 7.8nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-6.8GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HQ-7N8_freq port1 port2 PARAMS: Cpar=0.102pF Ind=7.8nH
X1 port1 port2 Model2A PARAMS:
+ R1=8
+ R2=0.05
+ C= {Cpar}
+ K1=0.0000107
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=8689.86029
.ends 1008HQ-7N8_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HQ-7N8
* Inductance = 7.8nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-6.8GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008HQ-7N8_imp port1 port2 PARAMS: Cpar=0.102pF Ind=7.8nH
X1 port1 port2 Model1D PARAMS:
+ R1=8
+ R2=0.05
+ C= {Cpar}
+ K1=0.0000107
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=8689.86029
.ends 1008HQ-7N8_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HQ-10N
* Inductance = 10nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-6.8GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HQ-10N_freq port1 port2 PARAMS: Cpar=0.079pF Ind=10nH
X1 port1 port2 Model2A PARAMS:
+ R1=6
+ R2=0.06
+ C= {Cpar}
+ K1=0.0000169
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=17410.1308
.ends 1008HQ-10N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HQ-10N
* Inductance = 10nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-6.8GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008HQ-10N_imp port1 port2 PARAMS: Cpar=0.079pF Ind=10nH
X1 port1 port2 Model1D PARAMS:
+ R1=6
+ R2=0.06
+ C= {Cpar}
+ K1=0.0000169
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=17410.1308
.ends 1008HQ-10N_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HQ-12N
* Inductance = 12nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-5.1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HQ-12N_freq port1 port2 PARAMS: Cpar=0.119pF Ind=12nH
X1 port1 port2 Model2A PARAMS:
+ R1=8
+ R2=0.06
+ C= {Cpar}
+ K1=0.0000181
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=10994.8202
.ends 1008HQ-12N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HQ-12N
* Inductance = 12nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-5.1GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008HQ-12N_imp port1 port2 PARAMS: Cpar=0.119pF Ind=12nH
X1 port1 port2 Model1D PARAMS:
+ R1=8
+ R2=0.06
+ C= {Cpar}
+ K1=0.0000181
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=10994.8202
.ends 1008HQ-12N_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HQ-18N
* Inductance = 18nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-4.6GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HQ-18N_freq port1 port2 PARAMS: Cpar=0.096pF Ind=18nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.07
+ C= {Cpar}
+ K1=0.0000253
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=16216.5507
.ends 1008HQ-18N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HQ-18N
* Inductance = 18nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-4.6GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008HQ-18N_imp port1 port2 PARAMS: Cpar=0.096pF Ind=18nH
X1 port1 port2 Model1D PARAMS:
+ R1=10
+ R2=0.07
+ C= {Cpar}
+ K1=0.0000253
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=16216.5507
.ends 1008HQ-18N_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HQ-22N
* Inductance = 22nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3.3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HQ-22N_freq port1 port2 PARAMS: Cpar=0.156pF Ind=22nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.07
+ C= {Cpar}
+ K1=0.0000309
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=12150.7941
.ends 1008HQ-22N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HQ-22N
* Inductance = 22nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3.3GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008HQ-22N_imp port1 port2 PARAMS: Cpar=0.156pF Ind=22nH
X1 port1 port2 Model1D PARAMS:
+ R1=10
+ R2=0.07
+ C= {Cpar}
+ K1=0.0000309
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=12150.7941
.ends 1008HQ-22N_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HQ-33N
* Inductance = 33nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HQ-33N_freq port1 port2 PARAMS: Cpar=0.138pF Ind=33nH
X1 port1 port2 Model2A PARAMS:
+ R1=9
+ R2=0.09
+ C= {Cpar}
+ K1=0.0000399
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=21866.9343
.ends 1008HQ-33N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HQ-33N
* Inductance = 33nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008HQ-33N_imp port1 port2 PARAMS: Cpar=0.138pF Ind=33nH
X1 port1 port2 Model1D PARAMS:
+ R1=9
+ R2=0.09
+ C= {Cpar}
+ K1=0.0000399
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=21866.9343
.ends 1008HQ-33N_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HQ-39N
* Inductance = 39nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HQ-39N_freq port1 port2 PARAMS: Cpar=0.191pF Ind=39nH
X1 port1 port2 Model2A PARAMS:
+ R1=13
+ R2=0.09
+ C= {Cpar}
+ K1=0.0000465
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=13621.3097
.ends 1008HQ-39N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HQ-39N
* Inductance = 39nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.3GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008HQ-39N_imp port1 port2 PARAMS: Cpar=0.191pF Ind=39nH
X1 port1 port2 Model1D PARAMS:
+ R1=13
+ R2=0.09
+ C= {Cpar}
+ K1=0.0000465
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=13621.3097
.ends 1008HQ-39N_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HQ-47N
* Inductance = 47nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.4GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HQ-47N_freq port1 port2 PARAMS: Cpar=0.14pF Ind=47nH
X1 port1 port2 Model2A PARAMS:
+ R1=11
+ R2=0.12
+ C= {Cpar}
+ K1=0.0000561
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=24900.3258
.ends 1008HQ-47N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HQ-47N
* Inductance = 47nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.4GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008HQ-47N_imp port1 port2 PARAMS: Cpar=0.14pF Ind=47nH
X1 port1 port2 Model1D PARAMS:
+ R1=11
+ R2=0.12
+ C= {Cpar}
+ K1=0.0000561
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=24900.3258
.ends 1008HQ-47N_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HQ-56N
* Inductance = 56nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HQ-56N_freq port1 port2 PARAMS: Cpar=0.185pF Ind=56nH
X1 port1 port2 Model2A PARAMS:
+ R1=13
+ R2=0.12
+ C= {Cpar}
+ K1=0.0000651
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=19441.8558
.ends 1008HQ-56N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HQ-56N
* Inductance = 56nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008HQ-56N_imp port1 port2 PARAMS: Cpar=0.185pF Ind=56nH
X1 port1 port2 Model1D PARAMS:
+ R1=13
+ R2=0.12
+ C= {Cpar}
+ K1=0.0000651
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=19441.8558
.ends 1008HQ-56N_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HQ-68N
* Inductance = 68nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HQ-68N_freq port1 port2 PARAMS: Cpar=0.154pF Ind=68nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.13
+ C= {Cpar}
+ K1=0.000075
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=34081.0644
.ends 1008HQ-68N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HQ-68N
* Inductance = 68nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008HQ-68N_imp port1 port2 PARAMS: Cpar=0.154pF Ind=68nH
X1 port1 port2 Model1D PARAMS:
+ R1=10
+ R2=0.13
+ C= {Cpar}
+ K1=0.000075
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=34081.0644
.ends 1008HQ-68N_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HQ-82N
* Inductance = 82nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HQ-82N_freq port1 port2 PARAMS: Cpar=0.13pF Ind=82nH
X1 port1 port2 Model2A PARAMS:
+ R1=11
+ R2=0.16
+ C= {Cpar}
+ K1=0.000094
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=42941.6268
.ends 1008HQ-82N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HQ-82N
* Inductance = 82nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008HQ-82N_imp port1 port2 PARAMS: Cpar=0.13pF Ind=82nH
X1 port1 port2 Model1D PARAMS:
+ R1=11
+ R2=0.16
+ C= {Cpar}
+ K1=0.000094
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=42941.6268
.ends 1008HQ-82N_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HQ-R10
* Inductance = #VALUE!
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.4GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008HQ-R10_freq port1 port2 PARAMS: Cpar=0.21pF Ind=100nH
X1 port1 port2 Model2A PARAMS:
+ R1=14
+ R2=0.16
+ C= {Cpar}
+ K1=0.000131
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=25968.6644
.ends 1008HQ-R10_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008HQ-R10
* Inductance = #VALUE!
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.4GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008HQ-R10_imp port1 port2 PARAMS: Cpar=0.21pF Ind=100nH
X1 port1 port2 Model1D PARAMS:
+ R1=14
+ R2=0.16
+ C= {Cpar}
+ K1=0.000131
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=25968.6644
.ends 1008HQ-R10_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Impedance Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Time Domain Inductor Impedance Model
*======================================================================
.subckt Model1D Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K3=1
+ PkZ=1
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout {K3}
.ends Model1D

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft RF Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model2A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K3=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
L1 N003 Lout = {K3}
.ends Model2A








.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
